US04536503
Preparation of 4-(1-naphthyloxy)-1-butanol
Potassium superoxide (0.71 g) was added to a solution of 4-(1-naphthyloxy)butyl chloride (2.0 g) and 18-Crown-6 (0.5 g) in dimethylsulfoxide (10 ml). After 8 hors the mixture was added to water and the solution was extracted with ether. The ethereal solution was dried and evaporated and the residue chromatographed on silica gel, eluting with 2:1 hexane ether, to yield the title compound as an oil.

reactant | Potassium superoxide | 0.71 g | O=O.[K+]
reactant | 4-(1-naphthyloxy)butyl chloride | 2.0 g | C1(=CC=CC2=CC=CC=C12)OCCCCCl | C14H15ClO
reactant | 18-Crown-6 | 0.5 g | C1COCCOCCOCCOCCOCCO1 | C12H24O6
reactant | water | O | H2O
solvent | dimethylsulfoxide | 10 ml | CS(=O)C | C2H6OS
product | 4-(1-naphthyloxy)-1-butanol | C1(=CC=CC2=CC=CC=C12)OCCCCO | C14H16O2
